US04065290
3,5-bis(3-chlorophenyl)-1-methyl-4-piperidinone
A 10 g. portion of 1,3-bis(3-chlorophenyl)-2-propanone was reacted with ethyl formate and methylamine hydrochloride to produce 7 g. of 3,5-bis(3-chlorophenyl)-1-methyl-4(1H)-pyridinone. A 6.4 g. portion of the pyridinone was reduced with 2 g. of lithium aluminum hydride and the products were separated by chromatography as described in the examples above. The yields were about 0.8 g. of Example 11, and 1.5 g. of Example 12. Example 11, m.p. 140°.

reactant | 1,3-bis(3-chlorophenyl)-2-propanone | ClC=1C=C(C=CC1)CC(CC1=CC(=CC=C1)Cl)=O | C15H12Cl2O
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | methylamine hydrochloride | Cl.CN
reactant | 3,5-bis(3-chlorophenyl)-1-methyl-4(1H)-pyridinone | ClC=1C=C(C=CC1)C1=CN(C=C(C1=O)C1=CC(=CC=C1)Cl)C | C18H13Cl2NO
reactant | pyridinone | N1C(C=CC=C1)=O | C5H5NO
product | 3,5-bis(3-chlorophenyl)-1-methyl-4-piperidinone | ClC=1C=C(C=CC1)C1CN(CC(C1=O)C1=CC(=CC=C1)Cl)C | C18H17Cl2NO
